US04621084
6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-2-ethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (1.07 g) was prepared in substantially the same manner as that of Example 16 from 6-(2-bromopropionyl)-2-ethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (2.28 g) and 2-aminopyridine (2.0 g).

reactant | 6-(2-bromopropionyl)-2-ethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 2.28 g | BrC(C(=O)C=1C=CC2=C(NC(C(O2)CC)=O)C1)C | C13H14BrNO3
reactant | 2-aminopyridine | 2.0 g | NC1=NC=CC=C1 | C5H6N2
product | 6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-2-ethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.07 g | CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(NC(C(O1)CC)=O)C2 | C18H17N3O2
